US07985769B2
5-Benzo[b]thiophen-2-yl-3-(toluene-2-sulfonylamino)-thiophene-2-carboxylic acid tert-butyl ester was hydrolyzed to the acid using TFA as described for example 2 providing 5-Benzo[b]thiophen-2-yl-3-(toluene-2-sulfonylamino)-thiophene-2-carboxylic acid (24 mg, 99% yield). 1H NMR (DMSO-D6, 400 MHz) 10.19 (s, 1H), 8.0 (d, J=7.7 Hz, 1H), 7.79-7.74 (m, 1H), 7.86 (s, 1H), 7.84-7.81 (m, 1H), 7.54 (t, J=7.7 Hz, 1H), 7.53-7.36 (m, 4H), 7.32 (s, 1H), 2.58 (s, 3H).

reactant | 5-Benzo[b]thiophen-2-yl-3-(toluene-2-sulfonylamino)-thiophene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C=1SC(=CC1NS(=O)(=O)C=1C(=CC=CC1)C)C1=CC2=C(S1)C=CC=C2 | C24H23NO4S3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-Benzo[b]thiophen-2-yl-3-(toluene-2-sulfonylamino)-thiophene-2-carboxylic acid | 24 mg, 99% yield | S1C2=C(C=C1C1=CC(=C(S1)C(=O)O)NS(=O)(=O)C=1C(=CC=CC1)C)C=CC=C2 | C20H15NO4S3
